US05073644
23 g sodium (1 mole) are placed in a 500 ml flask and approximately 150 ml ammonia condensed in at -70° C. 123.6 g 3,4-dichlorobutyl trimethoxysilane (0.5 mole) is added dropwise to the deep-blue solution produced in the course of 1 hour at -55° C. while the reaction mixture visibly changes color. The ammonia is allowed to evaporate overnight from the colorless, highly viscous suspension produced, the colorless residue combined with 150 ml n-pentane, the NaCl (56.9 g≅97.5% of theory) removed by filtration and 88.2 of a colorless liquid corresponding to the expected amount is obtained after the solvent is drawn off. 75.7 g=85.9% of theory of pure 3-butenyl trimethoxysilane are obtained therefrom by distillation (cf. table 1).

reactant | sodium | 1 mole, 23 g | [Na] | Na
reactant | ammonia | approximately 150 ml | N | H3N
reactant | 3,4-dichlorobutyl trimethoxysilane | 0.5 mole, 123.6 g | ClC(CC[Si](OC)(OC)OC)CCl | C7H16Cl2O3Si
solvent | n-pentane | 150 ml | CCCCC | C5H12
product | 3-butenyl trimethoxysilane | C(CC=C)[Si](OC)(OC)OC | C7H16O3Si
